US06281356B1
6-Bromoindole (10.4 g, 53.1 mmol) (prepared according to Moyer, M. P.; Shiurba, J. F.; Rapoport, H. J. Org. Chem. 1986, 51, 5106.) was added in small portions over 30 min to a stirred suspension of sodium hydride (2.96 g, 61.7 mmol, 50% in mineral oil) in dry THF (120 mL) at 0° C. Stirring was continued for another 30 min. lodomethane (4.5 ml, 71.6 mmol) was added dropwise. After 1 h, the mixture was poured into ice-water and extracted with ether (3×200 mL). The combined organic extracts were washed with brine and dried (MgSO4). Evaporation of the solvents and chromatography of the residue over silica gel using hexane gave 6-bromo-1-methyl-1H-indole (10.8 g, 97%).

reactant | 6-Bromoindole | 53.1 mmol, 10.4 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | sodium hydride | 61.7 mmol, 2.96 g | [H-].[Na+]
reactant | THF | 120 mL | C1CCOC1 | C4H8O
product | 6-bromo-1-methyl-1H-indole | 10.8 g, 97% | BrC1=CC=C2C=CN(C2=C1)C | C9H8BrN
